US04588719
3-(3-Chloropropoxy)-1-(1-piperidinylmethyl)benzocyclobutene
Piperidine (3.19 ml) is added to a solution of 3-(3-chloropropoxy)-1-hydroxymethylbenzocyclobutene mesylate (2.45 g) in toluene (32 ml) and the reaction mixture refluxed under nitrogen for about 12 hours. The reaction mixture is diluted with ethyl acetate and extracted with saturated NaHCO3 followed by saturated NaCl. The organic extract is dried, filtered and concentrated yielding the crude product used in the next step.

reactant | Piperidine | 3.19 ml | N1CCCCC1 | C5H11N
reactant | 3-(3-chloropropoxy)-1-hydroxymethylbenzocyclobutene mesylate | 2.45 g | S(C)(=O)(=O)O.ClCCCOC12C(CC1CO)C=CC=C2
solvent | toluene | 32 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(3-Chloropropoxy)-1-(1-piperidinylmethyl)benzocyclobutene | ClCCCOC12C(CC1CN1CCCCC1)C=CC=C2 | C17H26ClNO
